US08633186B2
To a suspension of tert-butyl-4-(2-hydroxyethyl)piperidine-1-carboxylate (769 μL, 3.50 mmol) and NaH (118 mg, 3.50 mmol, 60% dispersion in mineral oil) in dry DMF (5 mL) at 0° C., was added a solution of 2,6-dinitrobenzonitrile (614 mg, 3.18 mmol) in dry DMF (4 mL). The reaction was stirred under N2, warming to rt. Upon completion, the reaction was quenched with H2O (50 mL), and the precipitate was collected by vacuum filtration to provide tert-butyl-4-(2-(2-cyano-3-nitrophenoxy)ethyl)piperidine-1-carboxylate (955 mg, 80%) as a tan solid 1H NMR (400 MHz, CDCl3) δ 1.09 (m, 2H), 1.40 (s, 9H), 1.73 (m, 5H), 2.70 (m, 2H), 3.94 (m, 2H), 4.32 (t, J=6.8 Hz, 2H), 7.75 (m, 1H), 7.92 (m, 2H).

reactant | tert-butyl-4-(2-hydroxyethyl)piperidine-1-carboxylate | 3.50 mmol, 769 μL | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 3.50 mmol, 118 mg | [H-].[Na+]
reactant | 2,6-dinitrobenzonitrile | 3.18 mmol, 614 mg | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-butyl-4-(2-(2-cyano-3-nitrophenoxy)ethyl)piperidine-1-carboxylate | 955 mg, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=C(C(=CC=C1)[N+](=O)[O-])C#N | C19H25N3O5
